US05175301
N-(6-Chloro-3-pyridylmethyl)-N-(2,2,2-trifluoroethyl)amine
In 15 ml of water was dissolved 12.55 g of 2,2,2-trifluoroethylamine hydrochloride, followed by addition of 68 ml of CH3CN, and further 9.35 g of Et3N and then 3.00 g (0.0185 mole) of 6-chloro-3-pyridylmethyl chloride under cooling with ice-water and stirring. The mixture was stirred at room temperature for one hour, at 50° C. for one hour and at 70° C. for 90 hours. The CH3CN was distilled off, and the residue was followed by addition of NaHCO3 and then extracted with CH2Cl2 (100 ml×3). The extract was dried over MgSO4 and distilled to remove CH2Cl2. To the residue was added 100 ml of Et2O and the resulting unsoluble matter was filtered off. The filtrate was concentrated to give 3.85 g of the title compound as yellow oil.

reactant | 2,2,2-trifluoroethylamine hydrochloride | 12.55 g | Cl.FC(CN)(F)F
reactant | CH3CN | 68 ml | CC#N | C2H3N
reactant | Et3N | 9.35 g | CCN(CC)CC | C6H15N
reactant | 6-chloro-3-pyridylmethyl chloride | 0.0185 mole, 3.00 g | ClC1=CC=C(C=N1)CCl | C6H5Cl2N
solvent | water | 15 ml | O | H2O
product | N-(6-Chloro-3-pyridylmethyl)-N-(2,2,2-trifluoroethyl)amine | 3.85 g | ClC1=CC=C(C=N1)CNCC(F)(F)F | C8H8ClF3N2
